* Z:\home\iwolfs\Projects\Electronics\KiCad_Projects\bldc_project\simulations\single_fet_driver.asc
XMu_L Vs N005 0 irfz44n
XMu_U N001 N002 Vs irfz44n
Vu_U PWM 0 PWL REPEAT FOREVER ((0 3.3) (19.9u 3.3) (20u 0) (59.9u 0) (60u 3.3)) ENDREPEAT
XU1 LO HO 0 PWM Vcc Vb Vs NSD IR2104
V1 Vcc 0 5
D1 N003 Vb 1N5819
C1 Vb Vs 0.45µ
Vu_U1 NSD 0 PWL REPEAT FOREVER ((0 3.3) (19.9u 3.3) (20u 0) (29.9u 0) (30u 3.3)) ENDREPEAT
R1 N004 Vs 10
V2 N001 0 16
R2 N003 Vcc 5
R3 N002 HO 100
R4 N005 LO 100
L1 N004 0 100µ
Cdecoupling Vcc 0 4.7µ
D2 N002 HO 1N4148
D3 N005 LO 1N4148
.model D D
.lib C:\users\iwolfs\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 1ms 0 1u7
.lib irfz44n.spi
.lib C:\users\iwolfs\My Documents\LTspiceXVII\lib\other\IR2104\Model\IR2104.lib
.backanno
.end
